US07179823B1
Sodium hydride (60%, oily, 1.20 g) was added to a solution of ethyl 1-benzyl-3-hydroxy-1H-pyrazol-4-ylacetate (7.81 g) in N,N-dimethylformamide (100 ml) at 0° C., which was stirred at room temperature for 15 minutes. Ethyl iodide (2.40 ml) was added to the mixture, which was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 1-benzyl-3-ethoxy-1H-pyrazol-4-ylacetate (7.52 g, yield 87%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | Sodium hydride | 1.20 g | [H-].[Na+]
reactant | ethyl 1-benzyl-3-hydroxy-1H-pyrazol-4-ylacetate | 7.81 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)O | C14H16N2O3
reactant | Ethyl iodide | 2.40 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 1-benzyl-3-ethoxy-1H-pyrazol-4-ylacetate | 7.52 g, yield 87% | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)OCC | C16H20N2O3
